US07232922B2
According to the present invention, the preparation of the arylphosphonite antioxidant is performed in an one-pot reactor. First of all, excessive phosphorous trichloride, 2-phenylphenol, and a trace amount of zinc chloride catalyst are put into the reactor and heated to proceed the first stage esterification and intramolecular cyclization reaction. The reaction temperature preferably between 30° C. and 200° C. The reaction equation of the esterification and cyclization are shown as the reaction equation (1). Whether the reaction is completed or not, it is determined by a 31P nuclear resonance spectroscopy. After the excessive phosphorous trichloride is recovered by vacuum distillation, the 6-chloro-6H-dibenz[c,e][1,2]oxaphosphorin (CDOP) is obtained.

reactant | phosphorous trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | 2-phenylphenol | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 6-chloro-6H-dibenz[c,e][1,2]oxaphosphorin | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
